US07118787B2
2-(3,4,5-Trimethoxyphenyl)benzothiazole:
A solution of 3,4,5-trimethoxybenzaldehyde (19.7 g, 0.1 mol), 2-aminobenzenethiol (11.2 cm3, 0.105 mol) and dimethylsulfoxide acid (75 cm3) was heated under reflux for 24 hours. The cooled solution was added to water and extracted into ethyl acetate (3×50 cm3). The combined organic layers were dried (MgSO4), filtered and the filtrate evaporated down under reduced pressure. The solid residue was recrystallised from ethyl acetate to give 25.5 g (85.0%) of the desired product, mpt. 135° C.

reactant | 3,4,5-trimethoxybenzaldehyde | 0.1 mol, 19.7 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 2-aminobenzenethiol | 0.105 mol, 11.2 cm3 | NC1=C(C=CC=C1)S | C6H7NS
reactant | dimethylsulfoxide | 75 cm3 | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-(3,4,5-Trimethoxyphenyl)benzothiazole | 25.5 g, 85.0% | COC=1C=C(C=C(C1OC)OC)C=1SC2=C(N1)C=CC=C2 | C16H15NO3S
